US06699866B2
A solution of 2-chloro-1-[1-(4-chloro-phenyl)-cyclohexyl]-ethanone (191.5 mg, 0.71 mmol) and sodium iodide (105.8 mg, 0.71 mmol) in acetone (5 mL) was stirred at room temperature for 10 min. Next, 1-(3-morpholinopropyl)-2-thiourea (143.6 mg, 0.71 mmol) was added. The resulting mixture was heated at 50° C. overnight. After the mixture was allowed to cool to room temperature, it was diluted with 5% sodium hydrogen carbonate in water and then extracted with ethyl acetate (3×20 mL). The extracts were combined, and dried over anhydrous sodium sulfate, filtered and concentrated to give an oil. The crude was purified by column chromatography on silica gel using dichloromethane/2 N ammonia in ethanol (95:5) to give {4-[1-(4-chloro-phenyl)-cyclohexyl]-thiazol-2-yl}-(3-morpholin-4-yl-propyl)-amine, 94, as an oil (187.1 mg, 63%). 1H (CDCl3, 300 MHz) δ 7.31-7.21 (m, 4H), 6.01 (s, 1H), 5.93 (s, 1H), 3.70-1.52 (m, 24H) ppm;13C (C6D6, 75 MHz) δ 23.5, 25.5, 26.9, 36.7, 45.7, 46.4, 54.2, 57.7, 67.4, 101.3, 128.8, 129.4, 132.0, 146.8, 160.1, 169.5 ppm.

reactant | 2-chloro-1-[1-(4-chloro-phenyl)-cyclohexyl]-ethanone | 0.71 mmol, 191.5 mg | ClCC(=O)C1(CCCCC1)C1=CC=C(C=C1)Cl | C14H16Cl2O
reactant | sodium iodide | 0.71 mmol, 105.8 mg | [I-].[Na+]
reactant | 1-(3-morpholinopropyl)-2-thiourea | 0.71 mmol, 143.6 mg | O1CCN(CC1)CCCNC(=S)N | C8H17N3OS
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | {4-[1-(4-chloro-phenyl)-cyclohexyl]-thiazol-2-yl}-(3-morpholin-4-yl-propyl)-amine | ClC1=CC=C(C=C1)C1(CCCCC1)C=1N=C(SC1)NCCCN1CCOCC1 | C22H30ClN3OS
